US06984653B2
Production of 2-[(E)-2-(2,4-dichlorophenyl)ethenyl]-4-[[4-[4-[2-[(methylsulfonyl)methyl]-1H-imidazol-1-yl]butyl]phenoxy]methyl]-1,3-oxazole
Using 4-(chloromethyl)-2-[(E)-2-(2,4-dichlorophenyl)ethenyl]-1,3-oxazole (257 mg), 4-[4-[2-[(methylsulfonyl)methyl]-1H-imidazol-1-yl]butyl]phenol (250 mg) and 65% sodium hydride (35.9 mg), the same reaction as Example 11-(i) was carried out to yield the titled compound (246 mg) as a-colorless crystal powder.

reactant | 4-(chloromethyl)-2-[(E)-2-(2,4-dichlorophenyl)ethenyl]-1,3-oxazole | 257 mg | ClCC=1N=C(OC1)\C=C\C1=C(C=C(C=C1)Cl)Cl | C12H8Cl3NO
reactant | 4-[4-[2-[(methylsulfonyl)methyl]-1H-imidazol-1-yl]butyl]phenol | 250 mg | CS(=O)(=O)CC=1N(C=CN1)CCCCC1=CC=C(C=C1)O | C15H20N2O3S
reactant | sodium hydride | 35.9 mg | [H-].[Na+]
product | 2-[(E)-2-(2,4-dichlorophenyl)ethenyl]-4-[[4-[4-[2-[(methylsulfonyl)methyl]-1H-imidazol-1-yl]butyl]phenoxy]methyl]-1,3-oxazole | 246 mg | ClC1=C(C=CC(=C1)Cl)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CS(=O)(=O)C | C27H27Cl2N3O4S
